Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
gait instability; difficulty w/ ambulation; weakness 

 
Major Surgical or Invasive Procedure:
___: Bilateral parietal burr holes for ___ evac
 
History of Present Illness:
___ y/o male know to the Neurosurgery service for a recent
admission on ___ for evaluation of increased size of known
subdural hematoma who was subsequently discharged to home
neurologically intact the following day. The patient experienced
a fall last night and is now experiencing new gait instability,
difficulty with ambulation and weakness. He presented to the ED
at ___ and underwent a CT of the head which showed a
slight increase in his bilateral subacute on chronic SDH. He was
transferred to the ED at ___ for further evaluation.

Of note, the patient initially fell while in ___ in ___ 
and
was reportedly found to have a right sided SDH. He was taking
Aspirin and Warfarin for Afib. These medications were stopped
after this fall. He underwent a scheduled follow-up CT head on
___ which demonstrated an increase in the size of the right
SDH and a new subacute on chronic left SDH. He was transferred
here for further evaluation and admitted to the Neurosurgery
service. Dr. ___ bilateral burr holes drainage of
the bilateral SDHs, but the patient's family declined as he was
neurologically intact on examination. He was discharged to home
the following day on ___.

The patient denies dizziness, confusion, diplopia, blurred
vision, nausea, vomiting, fever, chills, chest pain, shortness 
of
breath, or paresthesias of the extremities. He endorses gait
instability, unsteady ambulation and weakness of the right arm
and leg. He also notes difficulty with fine motor tasks of his
right hand. 

 
Past Medical History:
- atrial fibrillation
- hypertension
- obstructive sleep apnea
- status post bilateral cataract surgery ___ years ago
- status post hernia surgery approximately ___ years ago
- status post pacemaker placement approximately ___ years ago
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
ON ADMISSION
============
T: 98.3  BP: 168/105  HR: 60    RR: 24  O2Sats 97% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 2.5mm-2mm bilaterally.  EOMs intact throughout. 
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person and date. When asked what the
location was, he replied "the ___."
Language: Speech fluent with good comprehension. 

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 2.5mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline with slight deviation to the left. 

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout in the left upper 
and
lower extremity. Right pronation, no drift. 
RUE: Trap 5, Delt 5, Bi 5-, Tri 4+, Grip 5-
RLE: IP 3, Q 3, H 4+, ___ 4, Gastroc 4, AT 4

Sensation: Intact to light touch bilaterally.

Handedness: Right

ON DISCHARGE
============
Exam:

Opens eyes: [x]ontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  Right 3-2mm     Left 3-2mm
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

 
Pertinent Results:
See OMR
 
Brief Hospital Course:
#Subdural hematoma with cerebral compression
Mr. ___ is an ___ year old male who re-presents to the 
neurosurgery service after multiple falls in he setting of 
chronic SDH.  He had previously declined surgery for cSDH. On 
the day of admission, he was admitted to the ___ but boarded in 
Neuro ICU due to lack of NIMU beds. On ___, he was taken to the 
OR for bilateral burr holes for subdural hematoma evacuation.  
His operative course was uncomplicated; see OMR for full details 
of procedure. 2 JPdrains were left in place to bulb suction 
which were removed on POD#2. His neurologic exam was improved 
postoperatively. NCHCT on ___ was stable. Subdural drains were 
removed on POD#3; post-pull CT was stable.  The patient was 
evaluated by ___ who recommended discharge home with services. He 
was discharged home in stable condition.
 
Medications on Admission:
Lisinopril 10mg PO daily 
Aspirin 81mg PO daily, has not taken since fall in
mid ___
Warfarin, unknown dose, by mouth, unknown frequency, has not
taken since fall in mid ___
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*10 Tablet Refills:*0 
4.Rolling Walker
Dx: Subdural hematoma
___: 13 months
Ppx: Good

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Bilateral subdural hematoma with cerebral compression
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Surgery
• You underwent a surgery called bilateral burr holes to have 
blood removed from your brain. 
• Please keep your sutures or staples along your incision dry 
until they are removed.
• It is best to keep your incision open to air but it is ok to 
cover it when outside. 
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
• You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptoms after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___